US06914065B2
c) 2′-Fluoro-5′-(7-trifluoromethylimidazo[1,2-c]pyrimidin-3-yl)biphenyl-2-carbonitrile
A stirred mixture of 3-bromo-7-trifluoromethylimidazo[1,2-c]pyrimidine (100 mg, 0.375 mmol), dried potassium phosphate (0.159 g, 0.750 mmol) and 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile (0.2424 g, 0.750 mmol) in anhydrous N,N-dimethylacetamide (2 ml) was degassed by evacuation and refilling with nitrogen three times. Tetrakis(triphenylphosphine)palladium(0) (22 mg, 0.019 mmol) was then added and the mixture was degassed with two more evacuation-refilling cycles before heating at 80° C. under nitrogen for 3 h. The mixture was partitioned between ethyl acetate (250 ml) and brine (250 ml), and the aqueous layer was extracted further with ethyl acetate (250 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 40% EtOAc/isohexane), then recrystallisation (EtOAc) to give 6.8 mg (5%) of the title compound: 1H NMR (400 MHz, CDCl3) δ 7.46 (1H, t, J 8.6 Hz), 7.56 (1H, td, J 7.7, 1.3 Hz), 7.60 (1H, m), 7.65-7.74 (3H, m), 7.85 (1H, dd, J 7.8, 1.6 Hz), 7.89 (1H, s), 7.99 (1H, s), 9.37 (1H, s); MS (ES+) m/z 383 [M+H]+.

reactant | 3-bromo-7-trifluoromethylimidazo[1,2-c]pyrimidine | 0.375 mmol, 100 mg | BrC1=CN=C2N1C=NC(=C2)C(F)(F)F | C7H3BrF3N3
reactant | potassium phosphate | 0.750 mmol, 0.159 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | 0.750 mmol, 0.2424 g | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.019 mmol, 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Fluoro-5′-(7-trifluoromethylimidazo[1,2-c]pyrimidin-3-yl)biphenyl-2-carbonitrile | 6.8 mg, 5% | FC1=C(C=C(C=C1)C1=CN=C2N1C=NC(=C2)C(F)(F)F)C=2C(=CC=CC2)C#N | C20H10F4N4
